US05789405
A mixture of 6-ethoxycarbonylmethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]-octane (17 mg) and 1N aqueous sodium hydroxide solution (0.09 ml) in ethanol (0.2 ml) was stirred for one hour at ambient temperature. The solution was neutralized with 1N hydrochloric acid and the separated oil was extracted with diethyl ether. The solvent was dried and concentrated in vacuo to yield 6-carboxymethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro-[2,5]octane (14.4 mg) as an oil.

reactant | 6-ethoxycarbonylmethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]-octane | 17 mg | C(C)OC(=O)COC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C20H32O6
reactant | sodium hydroxide | 1N, 0.09 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 0.2 ml | C(C)O | C2H6O
product | 6-carboxymethoxy-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro-[2,5]octane | 14.4 mg | C(=O)(O)COC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC | C18H28O6
